US07727988B2
5-(2-Chloro-6-methyl-pyridin-3-yl)-1-(3,3-dimethoxy-propyl)-1H-pyrimidine-2,4-dione (Prep108)
A mixture of 5-(2-Chloro-6-methyl-pyridin-3-yl)-1H-pyrimidine-2,4-dione hydrochloride (Prep107, 345 mg, 1.27 mmol), K2CO3 (174 mg, 1.27 mmol) and 3-bromo-1,1dimethoxy-propane (86 μl, 0.63 mmol) in DMF (3 ml) was stirred at room temperature overnight. 3-Bromo-1,1dimethoxy-propane (86 μl, 0.63 mmol) was then added and the reaction mixture stirred for additional 2 days. Water was added and the aqueous layer washed with diethylether and then the product extracted with ethyl acetate. The organic phase was dried (Na2SO4), filtered and evaporated. The crude was purified by flash chromatography eluting with ethyl acetate-NH4OH (100-0.25) to give 90 mg of the title compound (21% yield).

reactant | 5-(2-Chloro-6-methyl-pyridin-3-yl)-1H-pyrimidine-2,4-dione hydrochloride | 1.27 mmol, 345 mg | Cl.ClC1=NC(=CC=C1C=1C(NC(NC1)=O)=O)C
reactant | K2CO3 | 1.27 mmol, 174 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-bromo-1,1dimethoxy-propane | 0.63 mmol, 86 μl | BrCCC(OC)OC | C5H11BrO2
reactant | 3-Bromo-1,1dimethoxy-propane | 0.63 mmol, 86 μl | BrCCC(OC)OC | C5H11BrO2
reactant | Water | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 5-(2-Chloro-6-methyl-pyridin-3-yl)-1-(3,3-dimethoxy-propyl)-1H-pyrimidine-2,4-dione | 90 mg, 21% yield | ClC1=NC(=CC=C1C=1C(NC(N(C1)CCC(OC)OC)=O)=O)C | C15H18ClN3O4
